US05721234
N-Methyl-N-(6-nitro-2,3,-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxaline-8-yl)acetamide
A mixture of 8-methylamino-6-nitro-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione (0.5 g. 1.6 mmol), acetic anhydride (0.5 g, 5 mmol), triethylamine (0.5 g, 5 mmol) in water (5 mL) was stirred for 15 min at room temperature. The solid was collected by filtration, washed with 2N HCl, then washed with diethyl ether and dried (0.5 g). Calc'd for C14 H14N4O5 : C, 52.83; H, 4.43; N, 17.60; found: C, 48.62; H, 4.26; N, 15.50.

reactant | 8-methylamino-6-nitro-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | 1.6 mmol, 0.5 g | CNC1CC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C12H12N4O4
reactant | acetic anhydride | 5 mmol, 0.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 5 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
solvent | water | 5 mL | O | H2O
product | N-Methyl-N-(6-nitro-2,3,-dioxo-2,3,4,7,8,9-hexahydro-1H-cyclopenta[f]quinoxaline-8-yl)acetamide | CN(C(C)=O)C1CC2=C(C=3NC(C(NC3C=C2[N+](=O)[O-])=O)=O)C1 | C14H14N4O5
